US05214047
a) 1,2,3,3a-Tetrahydro-3a-phenyl-5H-pyrrolo[1,2-a]-3,1-benzoxazin-5-one (Formula IV, R3 =H, X=C6H5)
A mixture of 26.1 g of 2-aminobenzoic acid, 36.5 g of 4-chloro-1-phenyl-1-butanone, 0.5 g of p-toluenesulfonic acid and 250 ml of xylene were refluxed with a water trap. After the reaction was complete, the solvent was removed by distillation and the remaining solid was recrystallized from ethanol. Yield: 41.1 g (81.5%), melting point 152° C.

reactant | 2-aminobenzoic acid | 26.1 g | NC1=C(C(=O)O)C=CC=C1 | C7H7NO2
reactant | 4-chloro-1-phenyl-1-butanone | 36.5 g | ClCCCC(=O)C1=CC=CC=C1 | C10H11ClO
reactant | p-toluenesulfonic acid | 0.5 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | xylene | 250 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 1,2,3,3a-Tetrahydro-3a-phenyl-5H-pyrrolo[1,2-a]-3,1-benzoxazin-5-one | C1(=CC=CC=C1)C12N(C3=C(C(O1)=O)C=CC=C3)CCC2 | C17H15NO2
